US05686459
3.45 g (7.82 mmol) of (3aRS,4RS,6aSR)-2-benzyl-4-(4-bromobenzyl)-5,6,6-trimethyl-tetrahydro-pyrrolo[3,4-c]pyrrole-1,3-dione and 3.52 g (39.1 mmol) of copper(I) cyanide were suspended in 150 ml of DMF under argon and heated under reflux for 56 hours. After cooling about 100 ml of DMF were removed, then 150 ml of dichloromethane and 60 ml of concentrated aqueous ammonia solution were added. The mixture was stirred vigorously for a few hours. The blue aqueous phase was separated and the organic phase was washed twice with ammonia solution and once with water. The solvent was removed and the residue was purified chromatographically (hexane/ethyl acetate 1:1+1% triethylamine). 1.91 g of (1RS,3aSR,6aRS)-4-(5-benzyl-2,3,3-trimethyl-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-ylmethyl)-benzonitrile were isolated as a yellowish oil. FAB-MS: 775 ([2M+H]+, 1); 663 (2); 388 ([M+H]+, 58); 271 (100); 91 (42).

reactant | (3aRS,4RS,6aSR)-2-benzyl-4-(4-bromobenzyl)-5,6,6-trimethyl-tetrahydro-pyrrolo[3,4-c]pyrrole-1,3-dione | 7.82 mmol, 3.45 g | C(C1=CC=CC=C1)N1C(C2C(N(C(C2C1=O)CC1=CC=C(C=C1)Br)C)(C)C)=O | C23H25BrN2O2
reactant | copper(I) cyanide | 39.1 mmol, 3.52 g | [Cu]C#N
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | DMF | about 100 ml | CN(C)C=O | C3H7NO
product | (1RS,3aSR,6aRS)-4-(5-benzyl-2,3,3-trimethyl-4,6-dioxo-octahydro-pyrrolo[3,4-c]pyrrol-1-ylmethyl)-benzonitrile | 1.91 g | C(C1=CC=CC=C1)N1C(C2C(C1=O)C(N(C2CC2=CC=C(C#N)C=C2)C)(C)C)=O | C24H25N3O2
